US05310897
To a mixture of (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl)-4-[(1R)-1-p-chlorophenylthiocarbonylethyl]-1-carboxymethylazetidin-2-one (70 mg) and p-nitrobenzyl alcohol (24 ml) in ethyl acetate (0.3 ml), there was added a solution of N,N'-dicyclohexylcarbodiimide (30 mg) in dry ethyl acetate (0.2 ml), and the resultant mixture was stirred at 5° to 10° C. overnight. The precipitated N,N'-dicyclohexylurea was collected by filtration and washed with ethyl acetate. The washing was combined with the filtrate, washed with water and brine, dried over sodium sulfate and distilled off to remove the solvent. The residue was purified by silica gel chromatography to give (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl)-4-[(1R)-1-p-chlorophenylthiocarbonylethyl]- 1-(1-nitrobenzyloxycarbonylmethyl)azetidin-2-one.

reactant | (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl)-4-[(1R)-1-p-chlorophenylthiocarbonylethyl]-1-carboxymethylazetidin-2-one | 70 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1[C@@H](C)C(=S)C1=CC=C(C=C1)Cl)CC(=O)O)=O | C22H32ClNO4SSi
reactant | p-nitrobenzyl alcohol | 24 ml | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | N,N'-dicyclohexylcarbodiimide | 30 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethyl acetate | 0.3 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 0.2 ml | C(C)(=O)OCC | C4H8O2
product | (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl)-4-[(1R)-1-p-chlorophenylthiocarbonylethyl]- 1-(1-nitrobenzyloxycarbonylmethyl)azetidin-2-one | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1[C@@H](C)C(=S)C1=CC=C(C=C1)Cl)C([N+](=O)[O-])C(=O)OCC1=CC=CC=C1)=O | C29H37ClN2O6SSi
